US07375087B2
3-(β-D-Glucopyranosyloxy)-4-{[4-(3-{1-[2-hydroxy-1-(hydroxymethyl)-ethylcarbamoyl]-1-(methyl)-ethylcarbamoyl}propyl)phenyl]methyl}-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 48 using 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{3-[1-carboxy-1-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole and 2-amino-1,3-propanediol instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{3-[1-carboxy-1-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole and 1-(2-hydroxyethyl)-piperazine, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{3-[1-carboxy-1-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)CCCC(NC(C)(C)C(=O)O)=O)C(C)C | C35H47N3O13
reactant | 2-amino-1,3-propanediol | NC(CO)CO | C3H9NO2
reactant | 1-(2-hydroxyethyl)-piperazine | OCCN1CCNCC1 | C6H14N2O
product | 3-(β-D-Glucopyranosyloxy)-4-{[4-(3-{1-[2-hydroxy-1-(hydroxymethyl)-ethylcarbamoyl]-1-(methyl)-ethylcarbamoyl}propyl)phenyl]methyl}-5-isopropyl-1H-pyrazole | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)CCCC(NC(C)(C)C(NC(CO)CO)=O)=O)C(C)C | C30H46N4O10
